US06605624B1
Preparation of Methyl 2-(Difluoromethyl)-5-(iodomethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridine-carboxylate (Compound 32)
Reaction of methyl 2-(difluoromethyl)-5-(chloromethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridine-carboxylate (U.S. Pat. No. 5,169,432 example 3) with sodium iodide in refluxing acetone according to the procedure known to those in the art yielded the product.

reactant | methyl 2-(difluoromethyl)-5-(chloromethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridine-carboxylate | FC(C1=NC(=C(C(=C1C(=O)OC)CC(C)C)CCl)C(F)(F)F)F | C14H15ClF5NO2
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | Methyl 2-(Difluoromethyl)-5-(iodomethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridine-carboxylate | FC(C1=NC(=C(C(=C1C(=O)OC)CC(C)C)CI)C(F)(F)F)F | C14H15F5INO2
